US07572809B2
Similar procedure as described in example 10 was used, starting from 2-piperidin-1-yl-ethanol and (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give (5-methyl-1H-pyrazol-3-yl)-[1-(2-piperidin-1-yl-ethoxy)-isoquinolin-3-yl]-amine. LC-MS m/e 352(MH+).

reactant | 2-piperidin-1-yl-ethanol | N1(CCCCC1)CCO | C7H15NO
reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
product | (5-methyl-1H-pyrazol-3-yl)-[1-(2-piperidin-1-yl-ethoxy)-isoquinolin-3-yl]-amine | CC1=CC(=NN1)NC=1N=C(C2=CC=CC=C2C1)OCCN1CCCCC1 | C20H25N5O
